* ------< SPICE Library IGBT3.LIB Created by SPICEMOD 2.4.3  03/98 >------
**********
*SRC=SGH23N60D;SGH23N60D;IGBTs;w/Diode;Samsung 600V 23A 12.6NS High Spd
*SYM=IGBT
.SUBCKT SGH23N60D 71 72 74
*     TERMINALS:  C  G  E
Q1  83 81 85     QOUT
M1  81 82 83 83  MFIN L=1U W=1U
DSD 83 81  DO
DBE 85 81  DE
RC  85 71  35.4M
RE  83 73  3.54M
RG  72 82  13.1
CGE 82 83  696P
EGD 91  0 82 81  1
VFB 93  0  0
FFB 82 81  VFB  1
CGD 92 93  802P
R1  92  0  1
D1  91 92  DLIM
DHV 94 93  DR
R2  91 94  1
D2  94  0  DLIM
LE  73 74  7.5N
DLV 94 95  DR 1
RLV 95  0  1
ESD 96 93  POLY(1) 83 81 2  1
MLV 95 96 93 93  SW
DFW 74 71 SGH23
.MODEL SGH23 D (IS=4.11N RS=21.2M N=1.7 BV=600 IBV=10U
+ CJO=618P VJ=0.75 M=0.333 TT=60.5N)
.MODEL SW NMOS (LEVEL=3 VTO=0 KP=5)
.MODEL QOUT PNP (IS=133F NF=1.2 BF=5.1 CJE=1.26N TF=12.6N XTB=1.3)
.MODEL MFIN NMOS (LEVEL=3 VMAX=400K THETA=43.6M ETA=2.01M VTO=5.7 KP=1.01)
.MODEL DR D (IS=13.3F CJO=401P VJ=1 M=0.82)
.MODEL DO D (IS=13.3F BV=599 CJO=454P VJ=1 M=0.7)
.MODEL DE D (IS=13.3F BV=15 N=2)
.MODEL DLIM D (IS=100N)
.ENDS
**********
*SRC=SGH40N60D;SGH40N60D;IGBTs;w/Diode;Samsung 600V 40A 30NS High Spd
*SYM=IGBT
.SUBCKT SGH40N60D 71 72 74
*     TERMINALS:  C  G  E
Q1  83 81 85     QOUT
M1  81 82 83 83  MFIN L=1U W=1U
DSD 83 81  DO
DBE 85 81  DE
RC  85 71  20.4M
RE  83 73  2.04M
RG  72 82  7.71
CGE 82 83  1.11N
EGD 91  0 82 81  1
VFB 93  0  0
FFB 82 81  VFB  1
CGD 92 93  1.75N
R1  92  0  1
D1  91 92  DLIM
DHV 94 93  DR
R2  91 94  1
D2  94  0  DLIM
LE  73 74  14N
DLV 94 95  DR 2
RLV 95  0  1
ESD 96 93  POLY(1) 83 81 3  1
MLV 95 96 93 93  SW
DFW 74 71 SGH23
.MODEL SGH23 D (IS=4.11N RS=21.2M N=1.7 BV=600 IBV=10U
+ CJO=618P VJ=0.75 M=0.333 TT=60.5N)
.MODEL SW NMOS (LEVEL=3 VTO=0 KP=5)
.MODEL QOUT PNP (IS=232F NF=1.2 BF=5.1 CJE=2.69N TF=30N XTB=1.3)
.MODEL MFIN NMOS (LEVEL=3 VMAX=400K THETA=43.6M ETA=2.01M VTO=5.7 KP=1.91)
.MODEL DR D (IS=23.2F CJO=585P VJ=1 M=0.82)
.MODEL DO D (IS=23.2F BV=599 CJO=941P VJ=1 M=0.7)
.MODEL DE D (IS=23.2F BV=15 N=2)
.MODEL DLIM D (IS=100N)
.ENDS
**********
*SRC=SGH40N60;SGH40N60;IGBTs;No Diode;Samsung 600V 40A 30NS High Spd
*SYM=IGBT
.SUBCKT SGH40N60 71 72 74
*     TERMINALS:  C  G  E
Q1  83 81 85     QOUT
M1  81 82 83 83  MFIN L=1U W=1U
DSD 83 81  DO
DBE 85 81  DE
RC  85 71  20.4M
RE  83 73  2.04M
RG  72 82  7.71
CGE 82 83  1.11N
EGD 91  0 82 81  1
VFB 93  0  0
FFB 82 81  VFB  1
CGD 92 93  1.75N
R1  92  0  1
D1  91 92  DLIM
DHV 94 93  DR
R2  91 94  1
D2  94  0  DLIM
LE  73 74  7.5N
DLV 94 95  DR 2
RLV 95  0  1
ESD 96 93  POLY(1) 83 81 3  1
MLV 95 96 93 93  SW
.MODEL SW NMOS (LEVEL=3 VTO=0 KP=5)
.MODEL QOUT PNP (IS=232F NF=1.2 BF=5.1 CJE=2.69N TF=30N XTB=1.3)
.MODEL MFIN NMOS (LEVEL=3 VMAX=400K THETA=43.6M ETA=2.01M VTO=5.7 KP=1.91)
.MODEL DR D (IS=23.2F CJO=585P VJ=1 M=0.82)
.MODEL DO D (IS=23.2F BV=599 CJO=941P VJ=1 M=0.7)
.MODEL DE D (IS=23.2F BV=15 N=2)
.MODEL DLIM D (IS=100N)
.ENDS
**********
*SRC=SGH80N60D;SGH80N60D;IGBTs;w/Diode;Samsung 600V 80A 30NS High Spd
*SYM=IGBT
.SUBCKT SGH80N60D 71 72 74
*     TERMINALS:  C  G  E
Q1  83 81 85     QOUT
M1  81 82 83 83  MFIN L=1U W=1U
DSD 83 81  DO
DBE 85 81  DE
RC  85 71  10.2M
RE  83 73  1.02M
RG  72 82  2.89
CGE 82 83  2.93N
EGD 91  0 82 81  1
VFB 93  0  0
FFB 82 81  VFB  1
CGD 92 93  3.51N
R1  92  0  1
D1  91 92  DLIM
DHV 94 93  DR
R2  91 94  1
D2  94  0  DLIM
LE  73 74  14N
DLV 94 95  DR 2
RLV 95  0  1
ESD 96 93  POLY(1) 83 81 10  1
MLV 95 96 93 93  SW
DFW 74 71 SGH80
.MODEL SGH80 D (IS=68.3N RS=13.2M N=1.7 BV=600 IBV=10U
+ CJO=1.03N VJ=0.75 M=0.333 TT=72N)
.MODEL SW NMOS (LEVEL=3 VTO=0 KP=5)
.MODEL QOUT PNP (IS=464F NF=1.2 BF=5.1 CJE=5.5N TF=30N XTB=1.3)
.MODEL MFIN NMOS (LEVEL=3 VMAX=400K THETA=43.6M ETA=2.01M VTO=5.7 KP=4.02)
.MODEL DR D (IS=46.4F CJO=1.17N VJ=1 M=0.82)
.MODEL DO D (IS=46.4F BV=599 CJO=1.99N VJ=1 M=0.7)
.MODEL DE D (IS=46.4F BV=15 N=2)
.MODEL DLIM D (IS=100N)
.ENDS
**********
*SRC=SGH80N60;SGH80N60;IGBTs;No Diode;Samsung 600V 80A 30NS High Spd
*SYM=IGBT
.SUBCKT SGH80N60 71 72 74
*     TERMINALS:  C  G  E
Q1  83 81 85     QOUT
M1  81 82 83 83  MFIN L=1U W=1U
DSD 83 81  DO
DBE 85 81  DE
RC  85 71  10.2M
RE  83 73  1.02M
RG  72 82  2.89
CGE 82 83  2.93N
EGD 91  0 82 81  1
VFB 93  0  0
FFB 82 81  VFB  1
CGD 92 93  3.51N
R1  92  0  1
D1  91 92  DLIM
DHV 94 93  DR
R2  91 94  1
D2  94  0  DLIM
LE  73 74  14N
DLV 94 95  DR 2
RLV 95  0  1
ESD 96 93  POLY(1) 83 81 10  1
MLV 95 96 93 93  SW
.MODEL SW NMOS (LEVEL=3 VTO=0 KP=5)
.MODEL QOUT PNP (IS=464F NF=1.2 BF=5.1 CJE=5.5N TF=30N XTB=1.3)
.MODEL MFIN NMOS (LEVEL=3 VMAX=400K THETA=43.6M ETA=2.01M VTO=5.7 KP=4.02)
.MODEL DR D (IS=46.4F CJO=1.17N VJ=1 M=0.82)
.MODEL DO D (IS=46.4F BV=599 CJO=1.99N VJ=1 M=0.7)
.MODEL DE D (IS=46.4F BV=15 N=2)
.MODEL DLIM D (IS=100N)
.ENDS
**********

