**********
* Copyright Intusoft 1986-1997
* All Rights Reserved
**********
**********
*SRC=UA741LIN;UA741LIN;Opamps;Intusoft;Linear Version
*SYM=UA741
.SUBCKT UA741LIN 2    3  6   7   4
*             - IN + OUT VCC VEE
RP 4 7 10K
RXX 4 0 10MEG
*
IBP 3 0 80NA
RIP 3 0 10MEG
CIP 3 0 1.4PF
IBN 2 0 100NA
RIN 2 0 10MEG
CIN 2 0 1.4PF
VOFST 2 10 1MV
RID 10 3 200K
EA 11 0 10 3 1
R1 11 12 5K
R2 12 13 50K
C1 12 0 13PF
GA 0 14 0 13 2700
C2 13 14 2.7PF
RO 14 0 75
L 14 6 30UHY
RL 14 6 1000
CL 6 0 3PF
.ENDS
**********
*SRC=LF156LIN;LF156LIN;Opamps;Intusoft;Linear Version
*SYM=LF156
.SUBCKT LF156LIN 2    3  6   7   4
*             - IN + OUT VCC VEE
RP 4 7 6K
RXX 4 0 10MEG
*
IBP 3 0 33E-12
RIP 3 0 1E12
CIP 3 0 3PF
IBN 2 0 30E-12
RIN 2 0 1E12
CIN 2 0 3PF
VOFST 2 10 3MV
RID 10 3 1E12
EA 11 0 10 3 1
R1 11 12 5K
R2 12 13 50K
C1 12 0 6PF
GA 0 14 0 13 2700
C2 13 14 .7PF
RO 14 0 75
L 14 6 1UHY
RL 14 6 100
CL 6 0 3PF
.ENDS
**********
*SRC=OPAMPL;OPAMPL;Generic Models;Linear Opamp;Bipolar Input
*SYM=OPAMP
.SUBCKT OPAMPL 2    3  6   7   4 {GAIN=??? FT=??? IOS=??? VOS=??? IBIAS=???}
*             - IN + OUT VCC VEE
*PARAMS ARE GAIN={GAIN} FT={FT} IOS={IOS} VOS={VOS} IBIAS={IBIAS}
* VOS in Volts, IOS in Amps, IBIAS in Amps, 
* FT(Gain Bandwidth) in Hz, GAIN (DC Gain) in Volts/Volt
RP 4 7 10K
RXX 4 0 10MEG
*
IBP 3 0 {IBIAS-IOS}
RIP 3 0 10MEG
CIP 3 0 1.4PF
IBN 2 0 {IBIAS}
RIN 2 0 10MEG
CIN 2 0 1.4PF
VOFST 2 10 {VOS}
RID 10 3 200K
EA 11 0 10 3 1
R1 11 12 5K
R2 12 13 50K
C1 12 0 {13U/FT}
GA 0 14 0 13 {GAIN*.0135}
C2 13 14 {2.7U/FT}
RO 14 0 75
L 14 6 {30/FT}
RL 14 6 1000
CL 6 0 3PF
.ENDS
**********
* SRC=OP1;OP1;Generic Models;Linear Opamp;Bipolar Version
* SYM=OPAMP
.SUBCKT OP1    2    3  6   7   4  {GAIN=??? FT=??? IOS=??? VOS=??? IBIAS=???}
*              - IN + OUT VCC VEE
*PARAMS ARE GAIN={GAIN} FT={FT} IOS={IOS} VOS={VOS} IBIAS={IBIAS}
*Same as "OPAMP" except that the GAIN Parameter must be in DB
* VOS in Volts, IOS in Amps, IBIAS in Amps, 
* FT(Gain Bandwidth) in Hz, GAIN (DC Gain) in DB
RP 4 7 10K
RXX 4 0 10MEG
*
IBP 3 0 {IBIAS-IOS}
RIP 3 0 10MEG
CIP 3 0 1.4PF
IBN 2 0 {IBIAS}
RIN 2 0 10MEG
CIN 2 0 1.4PF
VOFST 2 10 {VOS}
RID 10 3 200K
EA 11 0 10 3 1
R1 11 12 5K
R2 12 13 50K
C1 12 0 {13U/FT}
GA 0 14 0 13 {10^(GAIN/20)*.0135}
C2 13 14 {2.7U/FT}
RO 14 0 75
L 14 6 {30/FT}
RL 14 6 1000
CL 6 0 3PF
.ENDS
**********
*SRC=FETAMPL;FETAMPL;Generic Models;Linear Opamp;FET Input
*SYM=FETAMP
.SUBCKT FETAMPL 2    3  6   7   4  {GAIN=??? FT=??? VOS=???}
*               - IN + OUT VCC VEE
*PARAMS ARE GAIN={GAIN} FT={FT} VOS={VOS}
RP 4 7 6K
RXX 4 0 10MEG
*
IBP 3 0 33E-12
RIP 3 0 1E12
CIP 3 0 3PF
IBN 2 0 30E-12
RIN 2 0 1E12
CIN 2 0 3PF
VOFST 2 10 {VOS}
RID 10 3 1E12
EA 11 0 10 3 1
R1 11 12 5K
R2 12 13 50K
C1 12 0 {24U/FT}
GA 0 14 0 13 {.0135*GAIN}
C2 13 14 {2.33U/FT}
RO 14 0 75
L 14 6 {4U/FT}
RL 14 6 100
CL 6 0 3PF
.ENDS
**********

